US05147445
Synthesis of 3-(Phenylthio)-1,2,4-Triazole
3-Amino-1,2,4-triazole (12 g) is dissolved in 40% sulfuric acid (26 ml), and with temperature held at 5° C. or below, a solution consisting of sodium nitrite (11.9 g) dissolved in water (36 ml) is added dropwise. Subsequently, a saturated aqueous solution of sodium acetate is added to adjust the pH of the mixture to 4-5. The resulting solution is added over 1.5 h under cooling with ice to a solution composed of thiophenol (11.6 ml), sodium hydroxide (4.72 g) and water (30 ml). The reaction is stirred at room temperature for 0.5 h, then at 40°-50° C. for 1.5 h. After the reaction, the resulting product is extracted with ethyl acetate, washed with water, and dried with magnesium sulfate. When the solvent is distilled off, an oil remains. When this is purified by silica gel chromatography (solvent: chloroform-2% methanol), an oil is produced in an amount of 12.88 g; yield, 64.9%.

reactant | 3-Amino-1,2,4-triazole | 12 g | NC1=NNC=N1 | C2H4N4
reactant | sodium nitrite | 11.9 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | thiophenol | 11.6 ml | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydroxide | 4.72 g | [OH-].[Na+]
solvent | sulfuric acid | 26 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 36 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 3-(Phenylthio)-1,2,4-Triazole | C1(=CC=CC=C1)SC1=NNC=N1 | C8H7N3S
